US07417157B2
1400 ml (1.40 mol) of borane/THF complex (1 M solution) are added at −7° C. to a solution of 320.0 g (1.08 mol) of 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene in 3000 ml of THF, and the reaction mixture is stirred at room temperature for 3 h. 262 ml (4.50 mol) of ethanol, 650 ml (2.6 mol) of aqueous sodium hydroxide solution (4 M) and 360 ml (4.11 mol) of aqueous hydrogen peroxide soln. (35%) are added successively to the batch, during which the internal temperature does not exceed 47° C. (ice bath). When the addition is complete, the mixture is refluxed for 2 h, and the solution is cooled, added to water and stirred vigorously. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with sat. sodium chloride solution and dried using sodium sulfate. The solution is concentrated to dryness, and the crude product (336 g of yellow oil) is purified by column chromatography (SiO2, dichloromethane: MTBE=8:2), giving 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]decan-7-ol as pale-yellow oil.

reactant | 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]dec-7-ene | 1.08 mol, 320.0 g | C(C)OC1=C(C(=C(C=C1)C1=CCC2(OCCO2)CC1)F)F | C16H18F2O3
reactant | ethanol | 4.50 mol, 262 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2.6 mol, 4 M, 650 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 4.11 mol, 360 ml | OO | H2O2
solvent | THF | 3000 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 8-(4-ethoxy-2,3-difluorophenyl)-1,4-dioxaspiro[4.5]decan-7-ol | C(C)OC1=C(C(=C(C=C1)C1C(CC2(OCCO2)CC1)O)F)F | C16H20F2O4
